 
* Author: FOSSEE
* Date:

r1  in net-_l1-pad1_ 1k
l1  net-_l1-pad1_ out 2
c1  out gnd 0.5u
v1  in gnd pwl(0m 0 0.5m 5)
* u1  in plot_v1
* u2  out plot_v1
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
set hcopydevtype=postscript
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0
set hcopywidth=800
set hcopyheight=600
set hcopydevtype=postscript
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0
set hcopywidth=800
set hcopyheight=600
set hcopydevtype=postscript
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0
set hcopywidth=800
set hcopyheight=600
run
hardcopy v.ps allv
hardcopy all.ps all
hardcopy i.ps alli
hardcopy v.ps allv
hardcopy all.ps all
hardcopy i.ps alli
hardcopy v.ps allv
hardcopy all.ps all
hardcopy i.ps alli
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
      			