 
* Author: FOSSEE
* Date:

r1  in net-_l1-pad1_ 1k
l1  net-_l1-pad1_ out 2
c1  out gnd 0.5u
v1  in gnd pwl(0m 0 0.5m 5)
* u1  in plot_v1
* u2  out plot_v1
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > /tmp/RLC.cir.out_allv.txt
print allv > /tmp/RLC.cir.out_allv.txt
print allv > /tmp/RLC.cir.out_allv.txt
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
      			